US07348322B2
1-Bromo-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-propan-2-one
To an ice-cooled solution of 1-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-propan-2-one (2.56 g, 10 mmol) in MeOH (15 ml) was added Br2 (0.5 ml, 10 mmol) slowly via a syringe. The reaction mixture was stirred for 15 min at 0° C., then 30 min at room temperature. To the reaction mixture was added H2O (15 ml) and the mixture stirred for 15 min at room temperature. The reaction was monitored by TLC, and TLC showed no starting material left 15 min after addition of H2O. The resulting solution was extracted twice with 25% n-hexane in EtOAc. The combined organic extracts were washed twice with saturated aqueous NaHCO3 solution, dried over sodium sulfate and concentrated by evaporation in a vacuum. The residue was purified by column chromatography on silica-gel with 2% ether-hexane to yield 1.97 g of product.

reactant | 1-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-propan-2-one | 10 mmol, 2.56 g | FC(C1=C(C=CC=C1)C1(CCC1)CC(C)=O)(F)F | C14H15F3O
reactant | Br2 | 10 mmol, 0.5 ml | BrBr | Br2
reactant | H2O | 15 ml | O | H2O
solvent | MeOH | 15 ml | CO | CH4O
product | 1-Bromo-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-propan-2-one | 1.97 g | BrCC(CC1(CCC1)C1=C(C=CC=C1)C(F)(F)F)=O | C14H14BrF3O
